US05574064
Synthesis of N1 -[2-(4-cyanophenoxy)propyl]-N2 -phenoxycarbonyl-L-valinamide (Compound No. 750)
0.16 g of N-methylpiperidine was added to a suspension containing 0.25 g of N1 -[2-(4-cyanophenoxy)propyl]-L-valinamide hydrochloride suspended in 20 ml of methylene chloride, at -20° C. After the mixture was stirred for 10 minutes at the same temperature, 0.13 g of phenyl chloroformate was added drop by drop to the mixture, and then the reaction mixture was allowed to sit and warm naturally to room temperature while being stirred, and was stirred for 3 hours at room temperature. After the methylene chloride was removed under reduced pressure, the residue was purified by column chromatography on silica gel, thus obtaining 0.2 g of the desired product in the form of a white glutinous substance (yield: 63%).

reactant | N-methylpiperidine | 0.16 g | CN1CCCCC1 | C6H13N
reactant | N1 -[2-(4-cyanophenoxy)propyl]-L-valinamide hydrochloride | 0.25 g | Cl.C(#N)C1=CC=C(OC(CNC([C@@H](N)C(C)C)=O)C)C=C1
reactant | phenyl chloroformate | 0.13 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N1 -[2-(4-cyanophenoxy)propyl]-N2 -phenoxycarbonyl-L-valinamide | 0.2 g, yield: 63% | C(#N)C1=CC=C(OC(CNC([C@@H](NC(=O)OC2=CC=CC=C2)C(C)C)=O)C)C=C1 | C22H25N3O4
